US06930100B2
Step B: 3-(5-Chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indole-1-carboxylic acid iodomethyl ester ((S)-XIV)
To a 25 mL flask containing (S)-3-(5-chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indole-1-carboxylic acid chloromethyl ester ((S)-XII) (0.633 g, 1.40 mmol) was added 6 mL anhydrous acetone, and sodium iodide (0.314 g, 2.10 mmol). The reaction was heated to reflux and stirred for 4 hours, then the reaction was cooled to room temperature, and the solvent was evaporated in vacuo. The crude oil was dissolved in dichloromethane and washed with a 1% aq. sodium thiosulfate solution. The organic layer was separated, dried (Na2SO4) and evaporated in vacuo producing the title compound (0.640 g, 84%) which was used in subsequent reactions without purification. 1H NMR (CDCl3 400 MHz): δ=8.38 (s, 1H), 7.78 (s, 1H), 7.48 (d, 1H, J=7 Hz), 7.36 (d, 1H, J=7 Hz), 7.31 (d, 1H, J=7 Hz), 6.77 (d, 1H, J=7 Hz), 6.28 (d, 1H, J=6.4 Hz), 6.18 (d, 1H, J=6.4 Hz), 3.56 (s, 3H).

reactant | (S)-3-(5-chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indole-1-carboxylic acid chloromethyl ester | 1.40 mmol, 0.633 g | ClCOC(=O)N1C([C@@](C2=CC=C(C=C12)C(F)(F)F)(F)C1=C(C=CC(=C1)Cl)OC)=O | C18H11Cl2F4NO4
reactant | sodium iodide | 2.10 mmol, 0.314 g | [I-].[Na+]
solvent | acetone | 6 mL | CC(=O)C | C3H6O
product | 3-(5-Chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indole-1-carboxylic acid iodomethyl ester | 0.640 g, 84% | ICOC(=O)N1C(C(C2=CC=C(C=C12)C(F)(F)F)(F)C1=C(C=CC(=C1)Cl)OC)=O | C18H11ClF4INO4
